US05679683
2-Fluoro-5-nitrobenzonitrile (1.664 g, 10 mmol), ethyl thioglycollate (1.21 g, 10 mmol) and NEt3 (3.06 g, 30 mmol) are stirred in DMSO (5 mL) at 100° C. under N2 for h h. The deep orange-red reaction mixture is poured onto ice-water (50 mL), and the solid is collected by suction filtration, rinsed with water, and dried in a vacuum oven at 60° C. to give ethyl 3-amino-5-nitrobenzothiophene-2-carboxylate (2.675 g, 100%) as a bright orange solid. 1H NMR (DMSO) δ9.23 (1H, d, J=2.1 Hz), 8.28 (1H, dd, J=2.3, 8.9 Hz), 8.10 (1H, d, J=9.0 Hz), 7.45 (2H, brs), 4.29 (2H, q, J=7.1 Hz), 1.30 (3H, t, J=7.1 Hz).

reactant | 2-Fluoro-5-nitrobenzonitrile | 10 mmol, 1.664 g | FC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3FN2O2
reactant | ethyl thioglycollate | 10 mmol, 1.21 g | CCOC(=O)CS | C4H8O2S
reactant | NEt3 | 30 mmol, 3.06 g | CCN(CC)CC | C6H15N
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | ethyl 3-amino-5-nitrobenzothiophene-2-carboxylate | 2.675 g, 100% | NC1=C(SC2=C1C=C(C=C2)[N+](=O)[O-])C(=O)OCC | C11H10N2O4S
